US04628057
(2) (1RS,3SR)-trans-1-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Reference Example 2-(1) using methyl (1RS,3SR)-trans-1-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate (2.60 g), 10N NaOH (1.2 ml) and methanol (50 ml), there is obtained the title compound (1.60 g, 65%), m.p. 231°-233°C.

reactant | methyl (1RS,3SR)-trans-1-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 2.60 g | OC[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)OC | C14H16N2O3
reactant | NaOH | 10N, 1.2 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | (1RS,3SR)-trans-1-Hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.60 g, 65% | OC[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C13H14N2O3
